US04894385
Methyl 4-[3-(4-chlorophenyl)-1-(imidazol-1-ylmethyl)propylthio]benzoate
11 mg of a 55% w/w suspension of sodium hydride in mineral oil were added, whilst ice-cooling, to a solution of 40 mg of methyl 4-mercaptobenzoate in 0.25 ml of dry dimethylformamide, and the resulting mixture was stirred at room temperature for 30 minutes. A solution of 52 mg of 1-[4-(4-chlorophenyl)-2-chlorobutyl]imidazole in 0.25 ml of dry dimethylformamide was added to this solution, and the resulting mixture was heated at 60°-70° C. for 5 hours. At the end of this time, the reaction mixture was treated and purified according to the same method as described in Example 1, to give 34 mg of the title compound as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 4-mercaptobenzoate | 40 mg | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | 1-[4-(4-chlorophenyl)-2-chlorobutyl]imidazole | 52 mg | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)Cl | C13H14Cl2N2
solvent | dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[3-(4-chlorophenyl)-1-(imidazol-1-ylmethyl)propylthio]benzoate | 34 mg | ClC1=CC=C(C=C1)CCC(SC1=CC=C(C(=O)OC)C=C1)CN1C=NC=C1 | C21H21ClN2O2S
